US08912208B2
(4-{4-[5-(4-Trifluoromethyl-benzenesulfonylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid.
To a solution of 0.136 g (0.256 mmol) of (4-{4-[5-(4-Trifluoromethyl-benzenesulfonylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester in THF/MeOH (4:1) was added 0.500 mL of LiOH (4 M) and let stir at r.t. for 72 h. Removed solvent in vacuo. The residue was taken up in water, brought to pH 4 and the solid filtered to afford the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.20-1.31 (m, 2 H) 1.55-1.66 (m, 2 H) 1.81-1.89 (m, 1 H) 1.92-1.97 (m, 4 H) 2.27 (d, J=6.82 Hz, 2 H) 7.43 (d, J=8.34 Hz, 2 H) 7.69 (dd, J=8.59, 2.78 Hz, 1 H) 7.97 (d, J=8.59 Hz, 1 H) 8.02 (d, J=8.34 Hz, 2 H) 8.12 (m, 4 H) 8.47 (d, J=0.51 Hz, 1 H) 10.96 (br. s., 1 H) 12.13 (br. s., 1 H); (M+H)+=519.1.

reactant | (4-{4-[5-(4-Trifluoromethyl-benzenesulfonylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester | 0.256 mmol, 0.136 g | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)=O | C27H27F3N2O4S
reactant | LiOH | 4 M, 0.500 mL | [Li+].[OH-]
solvent | THF MeOH | C1CCOC1.CO
solvent | water | O | H2O
product | (4-{4-[5-(4-Trifluoromethyl-benzenesulfonylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid | FC(C1=CC=C(C=C1)S(=O)(=O)NC=1C=CC(=NC1)C1=CC=C(C=C1)C1CCC(CC1)CC(=O)O)(F)F | C26H25F3N2O4S
